US07045544B2
N-(5-Amino-2-pyridinyl)-5-[(3,3-dimethylbutanoyl)amino]-1-(2-fluorobenzyl)-1H-indole-2-carboxamide
46.8 mg (0.19 mmol) of hydrogen bromide (33% strength solution in acetic acid) are added to 29 mg (0.05 mmol) of benzyl 6-({[5-[(3,3-dimethylbutanoyl)amino]-1-(2-fluorobenzyl)-1H-indol-2-yl]carbonyl}amino)-3-pyridinylcarbamate (Example XLI), and the mixture is stirred at RT overnight. The solvent is removed under reduced pressure and the residue is purified by preparative HPLC. This gives 6 mg (27%) of the product.

reactant | hydrogen bromide | 0.19 mmol, 46.8 mg | Br | BrH
reactant | benzyl 6-({[5-[(3,3-dimethylbutanoyl)amino]-1-(2-fluorobenzyl)-1H-indol-2-yl]carbonyl}amino)-3-pyridinylcarbamate | 0.05 mmol, 29 mg | CC(CC(=O)NC=1C=C2C=C(N(C2=CC1)CC1=C(C=CC=C1)F)C(=O)NC1=CC=C(C=N1)NC(OCC1=CC=CC=C1)=O)(C)C | C35H34FN5O4
product | N-(5-Amino-2-pyridinyl)-5-[(3,3-dimethylbutanoyl)amino]-1-(2-fluorobenzyl)-1H-indole-2-carboxamide | NC=1C=CC(=NC1)NC(=O)C=1N(C2=CC=C(C=C2C1)NC(CC(C)(C)C)=O)CC1=C(C=CC=C1)F | C27H28FN5O2
